US07682753B2
Into a dry pressure resistant closed vessel were poured CsF (4.2 g) and triglyme (220 ml), and 189 g of hexafluoropropylene oxide (HFPO) was blown thereto with stirring at a temperature of from −10° C. to 10° C. Twenty hours after, 66 g of propylene oxide and 62 g of glycidyl ethoxysilane were introduced thereto. After the introduction, temperature was elevated gradually and after stirring at 40° to 60° C. for 24 hours, 5 g of acetic acid chloride was introduced to terminate a reaction. After completion of the reaction, separation of solution and concentration were carried out using HCFC-14 lb/water and 139 g of a rubber-like solid was obtained. As a result of GPC, 1H-NMR and 19F-NMR analyses, this product was found to be a polymer having acetic acid ester at its end which was obtained by ring-opening polymerization of HFPO/propylene oxide/glycidyl acrylate. A molar ratio thereof was 45/46/9, and a number average molecular weight was 6,200.

reactant | CsF | 4.2 g | [F-].[Cs+]
reactant | triglyme | 220 ml | COCCOCCOCCOC | C8H18O4
reactant | hexafluoropropylene oxide | 189 g | FC(C1(C(F)(F)O1)F)(F)F | C3F6O
reactant | propylene oxide | 66 g | C1C(C)O1 | C3H6O
reactant | glycidyl ethoxysilane | 62 g | C(C1CO1)[SiH2]OCC | C5H12O2Si
reactant | acetic acid chloride | 5 g | C(C)(=O)Cl | C2H3ClO
solvent | water | O | H2O
product | HFPO propylene oxide glycidyl acrylate | FC(C1(C(F)(F)O1)F)(F)F.C1C(C)O1.C(C=C)(=O)OCC1CO1 | InChI=1S/C6H8O3.C3F6O.C3H6O/c1-2-6(7)9-4-5-3-8-5;4-1(2(5,6)7)3(8,9)10-1;1-3-2-4-3/h2,5H,1,3-4H2;;3H,2H2,1H3
